US08389511B2
tert-Butyl (3R)-3-[{[4-(3-ethoxy-3-oxopropyl)-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate
To tert-Butyl (3R)-3-[{[2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate (460 mg) were added 3-bromopropionic acid ethyl ester (0.19 ml), potassium carbonate (298 mg) and acetonitrile (5 ml), and the mixture was refluxed for 5 hours. After the reaction was complete, water was added to the reaction solution, and the mixture was extracted with ethyl acetate solution. The obtained ethyl acetate solution was washed with water and an aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1) to give the title compound (350 mg) as a colorless liquid.

reactant | tert-Butyl (3R)-3-[{[2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 460 mg | CC1(OC2=C(NC1=O)C=C(C(=C2)C(F)(F)F)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)C | C25H34F3N3O5
reactant | 3-bromopropionic acid ethyl ester | 0.19 ml | C(C)OC(CCBr)=O | C5H9BrO2
reactant | potassium carbonate | 298 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | tert-Butyl (3R)-3-[{[4-(3-ethoxy-3-oxopropyl)-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 350 mg | C(C)OC(CCN1C(C(OC2=C1C=C(C(=C2)C(F)(F)F)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)(C)C)=O)=O | C30H42F3N3O7
